US04269873
Under nitrogen at 0°, a solution of 4-methyl-4-(2-acetoxyethyl)-2-azetidinone (0.014 mole) in 25 ml anhydrous methanol is treated with a solution of sodium methoxide (77 mg, 1.4 mmoles) in 5 ml anhydrous methanol. After stirring for 1 hour, the solution is neutralized with glacial acetic acid. Removal of the methanol in vacuo gives crude 4-methyl-4-(2-hydroxyethyl)-2-azetidinone as an oil. The product is purified by chromatography on silica gel eluting with 10% MeOH/CHCl3 to give the alcohol.

reactant | 4-methyl-4-(2-acetoxyethyl)-2-azetidinone | 0.014 mole | CC1(CC(N1)=O)CCOC(C)=O | C8H13NO3
reactant | sodium methoxide | 1.4 mmoles, 77 mg | C[O-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 25 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
product | 4-methyl-4-(2-hydroxyethyl)-2-azetidinone | CC1(CC(N1)=O)CCO | C6H11NO2
